US05965559
Using an analogous procedure to that described in Example 20, 4-(6-bromonaphth-2-ylsulphonyl)-2-carboxy-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine was reacted with glycine methyl ester to give 4-(6-bromonaphth-2-ylsulphonyl)-2-[N-(methoxycarbonylmethyl)carbamoyl]-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine in 76% yield as a glass;

reactant | 4-(6-bromonaphth-2-ylsulphonyl)-2-carboxy-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C1CCN(CC1)C1=CC=NC=C1)C(=O)O | C26H27BrN4O5S
reactant | glycine methyl ester | COC(CN)=O | C3H7NO2
product | 4-(6-bromonaphth-2-ylsulphonyl)-2-[N-(methoxycarbonylmethyl)carbamoyl]-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine | 76% yield | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C1CCN(CC1)C1=CC=NC=C1)C(NCC(=O)OC)=O | C29H32BrN5O6S
